US07470671B2
N-(5-methoxy-2-pyridinyl)methanesulfonamide
A solution of 10.7 g (86 mmol) of 5-methoxy-2-pyridinamine in 55 ml of dichioromethane is cooled to 0° C. and 72 ml (144 mmol) of a 2 M solution of methanesulfonic anhydride in dichloromethane are added gradually. The reaction mixture is stirred for 6 hours at room temperature and sodium bicarbonate solution is then added in a sufficient amount to bring the pH to about 9. The mixture obtained is concentrated under reduced pressure, the residue is taken up in 160 ml of ethanol at 50° C., the mixture obtained is dried and filtered and the filtrate is concentrated under reduced pressure. The residue is triturated in 50 ml of cold ethanol and the solid obtained is filtered off, rinsed with a little ethanol on the filter and then dried to give 8.7 g of the expected product in the form of a white powder (yield=50%).

reactant | 5-methoxy-2-pyridinamine | 86 mmol, 10.7 g | COC=1C=CC(=NC1)N | C6H8N2O
reactant | methanesulfonic anhydride | CS(=O)(=O)OS(=O)(=O)C | C2H6O5S2
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | dichioromethane | 55 ml | ClCCl | CH2Cl2
product | N-(5-methoxy-2-pyridinyl)methanesulfonamide | 8.7 g | COC=1C=CC(=NC1)NS(=O)(=O)C | C7H10N2O3S
